Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
==============
___ 11:40AM   ANISOCYT-1+* POIKILOCY-1+* MICROCYT-1+* 
SCHISTOCY-1+* TEARDROP-1+* RBCM-SLIDE REVI
___ 11:40AM   NEUTS-53 ___ MONOS-1* EOS-0* BASOS-0 
AbsNeut-2.49 AbsLymp-2.16 AbsMono-0.05* AbsEos-0.00* 
AbsBaso-0.00*
___ 11:40AM   WBC-4.7 RBC-2.69* HGB-9.1* HCT-26.7* MCV-99* 
MCH-33.8* MCHC-34.1 RDW-19.0* RDWSD-68.7*
___ 11:40AM   OSMOLAL-269*
___ 11:40AM   TOT PROT-4.6* ALBUMIN-3.4* GLOBULIN-1.2* 
PHOSPHATE-3.8 MAGNESIUM-1.6
___ 11:40AM   estGFR-Using this
___ 11:40AM   UREA N-11 CREAT-0.7 SODIUM-133* POTASSIUM-3.7 
CHLORIDE-96 TOTAL CO2-23 ANION GAP-14
___ 08:31PM OTHER BODY FLUID  FluAPCR-NEG FluBPCR-NEG

OTHER PERTINENT LABS
====================
___ 12:00AM BLOOD TotProt-3.9* Albumin-2.8* Globuln-1.1* 
Calcium-7.3* Phos-2.7 Mg-2.1
___ 08:31PM OTHER BODY FLUID FluAPCR-NEG FluBPCR-NEG

DISCHARGE LABS
===============
___ 12:00AM BLOOD WBC-6.8 RBC-2.27* Hgb-7.6* Hct-23.2* 
MCV-102* MCH-33.5* MCHC-32.8 RDW-18.7* RDWSD-70.0* Plt Ct-45*
___ 12:00AM BLOOD Neuts-50.1 ___ Monos-5.0 Eos-0.3* 
Baso-0.3 NRBC-0.7* Im ___ AbsNeut-3.43 AbsLymp-2.90 
AbsMono-0.34 AbsEos-0.02* AbsBaso-0.02
___ 12:00AM BLOOD Glucose-151* UreaN-11 Creat-0.7 Na-130* 
K-4.2 Cl-95* HCO3-23 AnGap-12
___ 12:00AM BLOOD ALT-17 AST-16 LD(LDH)-255* AlkPhos-65 
TotBili-<0.2
___ 12:00AM BLOOD Albumin-2.6* Calcium-7.5* Phos-3.0 Mg-1.7

MICRO
=======
___ 7:50 pm BLOOD CULTURE      Source: Line-PICC. 

   Blood Culture, Routine (Preliminary): 
      ANAEROBIC GRAM NEGATIVE ROD(S).    BETA LACTAMASE 
POSITIVE. 

   Anaerobic Bottle Gram Stain (Final ___: 
      GRAM NEGATIVE ROD(S). 
      Reported to and read back by ___ (___), 
___ @
      10:36AM. 

 
Brief Hospital Course:
PATIENT SUMMARY STATEMENT FOR ADMISSION
=========================================
Mr. ___ is a ___ yo gentleman with a history of relapsed AML 
treated with multiple rounds chemotherapy and MRD alloHSCT with 
MAC (D0 ___ complicated by steroid-refractory GI-GVHD, C. 
difficile colitis, CMV viremia, and recent VRE/E.coli 
bacteremia, and fungal pneumonia. Patient presented after ___ 
BAL results with positive galactomannan and stenotrophomonas

TRANSITIONAL ISSUES
=====================
Discharge weight: 69.67 kg - 153.59 lb  
Discharge Hgb: 7.6
Discharge WBC: 6.8
Discharge ANC: 3.43
Discharge platelets: 45
Discharge Cr: 0.7

[ ] The plan is to continue dual treatment with micafungin and 
isavuconazole for at least 8 weeks. However this plan could 
change depending on ID and imaging follow-up.
[ ] Follow-up chest CT has been schewduled in 4 weeks 
(___).
[ ] Continue metronidazole for current anaerobe bacteremia until 
___.
[ ] Continue linezolid for prior VRE bacteremia until ___.
[ ] Consider repeating CMV viral load.

ACUTE MEDICAL ISSUES ADDRESSED
=================================
#Aspergillus pneumonia
Patient with recent episode of multifocal pneumonia and VRE 
bacteremia. Multiple CT scans in the interval have shown 
development and progression of cavitating nodules concerning for 
pulmonary aspergillosis. Patient underwent BAL on ___ as an 
outpatient and had a positive galactomannan despite
being on isavuconazole treatment. . Initially patient 
transitioned to IV isavuconazole given concern for poor PO 
absorption due to GI-GVHD. However, isavuconazole levels 
adequate and per ID recs patient placed on PO isavuconazole and 
micafungin. Plan for at least 8 week treatment but will undergo 
ID follow-up and repeat imaging in 4 weeks.

#Positive stenotrophomonas in BAL
Cultures from BAL grew Stenotrophomonas maltophilia, sensitive 
to Bactrim. Patient remained asymptomatic throughout admission. 
ID considering this as a colonizer versus true infection given 
overall clinical stability. But decision to continue Bactrim at 
prophylactic dose.

#Gram negative bacteremia
Patient had single fever episode on ___. Blood cultures 
were drawn and gre anaerobic gram negative bacteria. Patient 
initially received empiric coverage with cefepime and 
metronidazole. However, upon final results of culture, ID 
recommended de-escalating to a 14 day course of metronidazole. 
Stop date would ___

CHRONIC ISSUES PERTINENT TO ADMISSION
=======================================
#AML s/p allogeneic MRD HSCT (Day 0 = ___:
#Thrombocytopenia:
AML initially with favorable mutational profile (normal 
karyotype; FLT3 negative, NPM1 positive, IDH2 positive, RAD21 
positive, CEBPA negative). He relapsed after chemo-consolidation 
(7+3, 3C HIDAC & MEC/Revlimid) then underwent an MRD allogeneic 
SCT. In remission following his transplant with slow count 
recovery. BMBX during recent admission showed no evidence of 
recurrence w/ 100% chimerism. 

#Recent enterococcus bacteremia
Patient was treated on prior admissions for enterococcus 
bacteremia with unclear source. Main suspicion was gut source 
given GVHD. TTE ___ negative for vegetations. He was discharged 
with Linezolid ___ BID for 6 weeks. On this admission 
Linezolid was transitions from IV to PO.

#GVHD, extensive GI involvement
-Continued immunosuppression with Jakafi 5 mg twice daily and 
Tacro 0.5mg qday, pred 7.5mg qday
-Continued ID prophylaxis with bactrim
-Continued PPI, vitamin D and folic acid supplementation

#Thrombocytopenia: 
Likely secondary to multiple infections, linezolid, Bactrim.  No 
evidence of consumptive process for splenomegaly.

#CMV viremia: 
History of CMV viremia with positive viral load ___ (peak 
2.2log), and he completed course of valganciclovir last 
admission. CMV VL ND since ___ and was changed to ACV at time 
of DC last admission. Consider repeating CMV viral load.

#Macrocytic anemia:
B12 and folate ok during previous admission. Likely med related
from Bactrim.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Budesonide 3 mg PO TID 
3. FoLIC Acid 1 mg PO DAILY 
4. Isavuconazonium Sulfate 372 mg PO DAILY 
5. Linezolid ___ mg IV Q12H 
6. LORazepam 1 mg PO BID: PRN anxiety 
7. Magnesium Oxide 800 mg PO BID 
8. Pantoprazole 40 mg PO Q12H 
9. PredniSONE 7.5 mg PO DAILY 
10. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
11. Tacrolimus 0.5 mg PO DAILY 
12. Vitamin D ___ UNIT PO 1X/WEEK (WE) 
13. Ruxolitinib 5 mg PO BID 

 
Discharge Medications:
1.  Linezolid ___ mg PO BID 
RX *linezolid ___ mg 1 tablet(s) by mouth twice a day Disp #*34 
Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO/NG Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*42 Tablet Refills:*0 
3.  Micafungin 100 mg IV Q24H  
4.  Acyclovir 400 mg PO Q8H  
5.  Budesonide 3 mg PO TID  
6.  FoLIC Acid 1 mg PO DAILY  
7.  Isavuconazonium Sulfate 372 mg PO DAILY  
8.  LORazepam 1 mg PO BID: PRN anxiety 
RX *lorazepam 1 mg 1 tab by mouth twice a day Disp #*10 Tablet 
Refills:*0 
9.  Magnesium Oxide 800 mg PO BID  
10.  Pantoprazole 40 mg PO Q12H  
11.  PredniSONE 7.5 mg PO DAILY  
12.  Ruxolitinib 5 mg PO BID  
13.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  
14.  Tacrolimus 0.5 mg PO DAILY  
15.  Vitamin D ___ UNIT PO 1X/WEEK (WE)  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
===================
# Aspergillus pneumonia
# Anaerobe bacteremia
# Acute myelogenous leukemia s/p allogeneic stem cell transplant

SECONDARY DIAGNOSIS
=====================
# Recent enterococcus bacteremia
# Gastrointestinal graft versus host disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a privilege taking care of you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You came to the hospital because on the results of your 
bronchoalveolar lavage a test for fungal infections was 
positive.
- Additionally, while in the hospital, you had a positive blood 
culture duringan episode of fever.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were started on 2 different antifungals to cover the 
suspected fungal infection in your lungs.
- You had an episode of fever during which we took a blood 
culture that was positive for bacteria.
- You were started on antibiotics to cover you for bacteria and 
once we had the final result of the culture the antibiotic was 
tailored to cover the specific bacteria.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best.

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___